US05539112
7.40 g (50.0 mmol) of 2,3,4-trifluorophenol was dissolved in 50 mL of dichloromethane, 8.30 mL (60.0 mmol) of triethylamine and 5.74 mL (60.0 mmol) of ethyl chloroformate were added under ice-cooling and the mixture was stirred at room temperature for 20 minutes. Water was added to the reaction solution and the mixture was extracted once with chloroform. The organic layer was washed once with an aqueous saturated solution of sodium chloride, and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure to give 9.83 g of O-ethoxycarbonyl-2,3,4-trifluorophenol (yield: 89%).

reactant | 2,3,4-trifluorophenol | 50.0 mmol, 7.40 g | FC1=C(C=CC(=C1F)F)O | C6H3F3O
reactant | triethylamine | 60.0 mmol, 8.30 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 60.0 mmol, 5.74 mL | ClC(=O)OCC | C3H5ClO2
reactant | Water | O | H2O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | O-ethoxycarbonyl-2,3,4-trifluorophenol | 9.83 g, yield: 89% | C(C)OC(=O)OC1=C(C(=C(C=C1)F)F)F | C9H7F3O3
